US08686048B2
Intermediate 89: 2′-chloro-5′-methoxybiphenyl-4-amine
The title compound (154 mg) was prepared from 4-bromoaniline (150 mg, 0.87 mmol) and 2-chloro-5-methoxyphenyl boronic acid (211 mg, 1.13 mmol) as a colourless viscous liquid.

reactant | 4-bromoaniline | 0.87 mmol, 150 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 2-chloro-5-methoxyphenyl boronic acid | 1.13 mmol, 211 mg | ClC1=C(C=C(C=C1)OC)B(O)O | C7H8BClO3
product | 2′-chloro-5′-methoxybiphenyl-4-amine | 154 mg | ClC1=C(C=C(C=C1)OC)C1=CC=C(C=C1)N | C13H12ClNO
